US05189042
17-Ethyl-20-fluoro-1-hydroxy-12-[2'-(3"-methoxy-4"-oxo cyclohexyl)-1'-methylvinyl]-14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a cooled solution (-78° C.) of oxalyl chloride (1.5 ml of 2M solution in CH2Cl2) is added dimethyl sulfoxide (361 mg) dropwise, followed by a solution of 17-ethyl-20-fluoro-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21, 27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ] octacos-18-ene-2,3,10,16-tetraone (947 mg) in dry methylene chloride (3 ml). The reaction mixture is stirred for 30 min. at -78° C. and then triethylamine (1 ml) is added. The reaction temperature is raised to room temperature, reaction is poured into water (20 ml), and extracted with ethyl acetate (three times). Combined organic layers are washed (water, sat'd NaHCO3), dried (anhydrous Na2SO4), and filtered. Removal of solvent followed by purification (silica gel column chromatography), gives the title compound.

reactant | oxalyl chloride | 2M, 1.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 361 mg | CS(=O)C | C2H6OS
reactant | 17-ethyl-20-fluoro-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21, 27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ] octacos-18-ene-2,3,10,16-tetraone | 947 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H88FNO12Si
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 17-Ethyl-20-fluoro-1-hydroxy-12-[2'-(3"-methoxy-4"-oxo cyclohexyl)-1'-methylvinyl]-14-triisopropylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=O)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H86FNO12Si
